US08349865B2
Step 4: 9-Bromo-5-{[2,6-dichloro-4-(1H-pyrazol-5-yl)phenyl]amino}benzo[c]-2,6-naphthyridin-1(2H)-one
To a slurry of 9-bromo-N-[2,6-dichloro-4-(1H-pyrazol-5-yl)phenyl]-1-methoxybenzo[c]-2,6-naphthyridin-5-amine (800 mg, 1.55 mmol) in dichloroethane (15 mL) was added boron tribromide (10.9 mL, 10.87 mmol, 1M in dichloromethane). The reaction mixture was heated at 85° C. for 45 min. After cooling to room temperature, the reaction was diluted with ethyl acetate and extracted with saturated aqueous sodium bicarbonate, followed by brine. The organic layer was dried with sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel eluting with THF in hexanes (0-50%) to afford the title compound.

reactant | 9-bromo-N-[2,6-dichloro-4-(1H-pyrazol-5-yl)phenyl]-1-methoxybenzo[c]-2,6-naphthyridin-5-amine | 1.55 mmol, 800 mg | BrC1=CC2=C(N=C(C3=CC=NC(=C23)OC)NC2=C(C=C(C=C2Cl)C2=CC=NN2)Cl)C=C1 | C22H14BrCl2N5O
reactant | boron tribromide | 10.87 mmol, 1M, 10.9 mL | B(Br)(Br)Br | BBr3
solvent | dichloroethane | 15 mL | ClC(C)Cl | C2H4Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 9-Bromo-5-{[2,6-dichloro-4-(1H-pyrazol-5-yl)phenyl]amino}benzo[c]-2,6-naphthyridin-1(2H)-one | BrC1=CC2=C(N=C(C=3C=CNC(C23)=O)NC2=C(C=C(C=C2Cl)C2=CC=NN2)Cl)C=C1 | C21H12BrCl2N5O
